US06492400B1
Part A: Preparation of 4-benzyl-1-(3-hydroxy-3-phenylprop-1-yl)piperidine
To a flame-dried 3-neck flask under a N2 atmosphere with a magnetic stirring bar, 4-benzylpiperidine (5.00 mL, 28 mmol, 1 eq), DBU (42 μL, 0.28 mmol, 0.01 eq), and THF (100 mL) were added, mixed, and cooled to −15° C. using a CCl4/CO2(s) bath. Acrolein (1.87 mL, 28 mmol, 1 eq) was then syringed in slowly during 10 minutes maintaining the temp. at −15° C. After 0.5 hours at −15° C., phenylmagnesium chloride (2.0 M, 14.0 mL, 28 mmol, 1 eq) was syringed in slowly and the contents allowed to slowly warm to room temperature and then stirred for 48 h. The reaction was worked up by adding 0.1 N NaOH and EtOAc (200 mL each). The viscous magnesium salts were suction filtered through fiberglass filter paper. The layers were separated and the aqueous layer was extracted again with ethyl acetate (2×200 mL). The organic layers were combined, washed with brine (1×200 mL), dried (MgSO4) and the solvent removed in vacuo to yield 7.39 g of an amber oil. Flash chromatography in 100% ethyl actetate yielded 2.48 g of an orange oil. NMR (CDCl3) δ7.40-7.10 (m, 10H); 4.93 (d of d, 1H, J=3,7 Hz); 3.12-2.96 (m, 2H); 2.68-2.46 (m, 4H); 2.01 (t of d, 1H, J=2, 10 Hz); 1.86-1.26 (m, 8H). ESI MS detects (M+H)+=310.

reactant | 4-benzylpiperidine | 28 mmol, 5.00 mL, 1 eq | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | Acrolein | 28 mmol, 1.87 mL, 1 eq | C(=O)C=C | C3H4O
reactant | phenylmagnesium chloride | 28 mmol, 2.0 M, 14.0 mL, 1 eq | C1(=CC=CC=C1)[Mg]Cl
reactant | NaOH | 0.1 N | [OH-].[Na+]
catalyst | DBU | 0.28 mmol, 42 μL, 0.01 eq | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-benzyl-1-(3-hydroxy-3-phenylprop-1-yl)piperidine | 7.39 g | C(C1=CC=CC=C1)C1CCN(CC1)CCC(C1=CC=CC=C1)O | C21H27NO
